US06124323
4-(4-Fluorobenzyl)-1-(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride
1-Acetyl-4-(4-fluorobenzoyl)piperidine. N-acetylisonipecotoyl chloride (2.00 g, 10.5 mmol) was slowly added to a stirred mixture of aluminum trichloride (2.80 g, 21.1 mmol) in fluorobenzene (10 mL). After addition was complete, the mixture was refluxed for 1 h. The mixture was poured into ice and the resulting layers were separated. The aqueous layer was extracted with CH2Cl2 (2×30 mL), the combined organic phase was dried and was concentrated under reduced pressure to afford the title compound as a pale yellow oil (1.30 g, 50%): 1H NMR (CDCl3) 1.50-1.70 (m, 1H), 1.70-2.00 (m, 3H), 2.10 (s, 3H), 2.81 (t, J=12.0 Hz, 1H), 3.15-3.30 (m, 1H), 3.40-3.55 (m, 1H), 3.90 (d, J=13.2 Hz, 1H), 4.57 (d, J=13.2 Hz, 1H), 7.14 (t, J=8.4 Hz, 2H), 7.97 (dd, J=5.7 and 8.4 Hz, 2H).

reactant | 1-Acetyl-4-(4-fluorobenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | N-acetylisonipecotoyl chloride | 10.5 mmol, 2.00 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminum trichloride | 21.1 mmol, 2.80 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | fluorobenzene | 10 mL | FC1=CC=CC=C1 | C6H5F
product | 4-(4-Fluorobenzyl)-1-(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride | 1.30 g, 50% | Cl.FC1=CC=C(CC2CCN(CC2)CCOC2=CC=C(C=C2)F)C=C1 | InChI=1S/C20H23F2NO.ClH/c21-18-3-1-16(2-4-18)15-17-9-11-23(12-10-17)13-14-24-20-7-5-19(22)6-8-20;/h1-8,17H,9-15H2;1H
